US08420812B2
3-(4-Methoxy-phenyl-1-ethynyl)-pyridine
This product was prepared from toluene-4-sulfonic acid pyridin-3-yl ester and 1-ethynyl-4-methoxy-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 8:2; yield (83 mg, 80%); 1H NMR δ (CDCl3): 8.76-8.74 (m, 1H), 8.50-8.53 (m, 1H), 7.76-7.73 (m, 1H), 7.49-8.46 (m, 2H), 7.24-7.20 (m, 1H), 6.88-6.85 (m, 2H), 3.78 (s, 3H); LCMS m/z: 209.

reactant | toluene-4-sulfonic acid pyridin-3-yl ester | N1=CC(=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H11NO3S
reactant | 1-ethynyl-4-methoxy-benzene | C(#C)C1=CC=C(C=C1)OC | C9H8O
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 3-(4-Methoxy-phenyl-1-ethynyl)-pyridine | COC1=CC=C(C=C1)C#CC=1C=NC=CC1 | C14H11NO
